* Subcircuit test_inv
.subckt test_inv in vdd out 
* home/kunalg/desktop/work/tools/esim/esim-1.1.2/src/subcircuitlibrary/test_inv/test_inv.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 out in gnd gnd CMOSN W=0.36u L=0.18u M=1
m2 out in vdd vdd CMOSP W=0.9u L=0.18u M=1
* Control Statements

.ends test_inv
